US05276120
To a stirring solution of 3-azido-2-hydroxypropanal diethyl acetal (7.32 g, 38.73 mmol) in dry benzene (50 mL) was added diethylaminosulfurtrifluoride (DAST; 20.6 mL) at -78° C. After the addition, the solution was stirred at room temperature for an hour, then heated to 70° C. for 12 hours. The reaction was quenched by the addition of methanol at zero degrees C. and dilution with water. After dichloromethane extraction, the organic layer was dried over MgSO4 and concentrated in vacuo. The crude product was purified with silica gel column chromatography (hexane: ether=9:1, volume/volume) to yield 3-azido-2-fluoropropanal diethyl acetal as an oil (65 percent); Rf =0.84 EtOAc:hexane=2:3) 1H-NMR (CD3Cl) δ 1.215~1.219 (6H, m) 3.526 (2H, dm, J=15.3 Hz), 3.642~3.670 (2H, m), 3.680~3.808 (2H, m), 4.514 (1H, dm, J=45.9 Hz) ppm.

reactant | 3-azido-2-hydroxypropanal diethyl acetal | 38.73 mmol, 7.32 g | C(C)OC(C(CN=[N+]=[N-])O)OCC | C7H15N3O3
reactant | diethylaminosulfurtrifluoride | 20.6 mL | C(C)N(CC)S(F)(F)F | C4H10F3NS
solvent | benzene | 50 mL | C1=CC=CC=C1 | C6H6
product | 3-azido-2-fluoropropanal diethyl acetal | 65 percent | C(C)OC(C(CN=[N+]=[N-])F)OCC | C7H14FN3O2
